US05686445
(2-Methylphenyl)methyl 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl)benzoate
To a mixture of 248 mg of 2-methylbenzyl alcohol in 4 ml of anhydrous tetrahydrofuran is added 80 mg of sodium hydride (60% in mineral oil) and the mixture stirred for I hour. To the mixture is added 430 mg of 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]benzoyl chloride and the mixture is stirred for 18 hours. The tetrahydrofuran is evaporated in vacuo to a residue which is partitioned between methylene chloride and water. The organic layer is separated and washed with 1N HCl, water, 1M NaHCO3, and brine. The organic layer is dried (Na2SO4) and passed through a short pad of hydrous magnesium silicate and hexane added at the boil to give 170 mg of the desired product, m.p. 140°-142° C.

reactant | 2-methylbenzyl alcohol | 248 mg | CC1=C(CO)C=CC=C1 | C8H10O
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)-carbonyl]benzoyl chloride | 430 mg | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)Cl)C=C3 | C22H16ClNO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | (2-Methylphenyl)methyl 4-[(6,11-dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl)benzoate | 170 mg | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C(=O)OCC2=C(C=CC=C2)C)C=C3 | C30H25NO3
